US09034311B2
a) (R)-Tert-butyl 3-(2-chloropyrimidin-4-ylamino)piperidine-1-carboxylate
A solution of 2,4-dichloropyrimidine (2.0 g, 13.4 mmol), (R)-tert-butyl 3-aminopiperidine-1-carboxylate (2.7 g, 13.5 mmol) and NN-diisopropylethylamine (2.3 mL, 13.4 mmol) in N,N′-dimethylformamide (15 mL) was stirred and heated overnight at 90° C. After cooling to ambient temperature, water was added and the resulting mixture was extracted with ethyl acetate. The organic phase was washed with water and brine, dried (MgSO4), filtered and the solvent was evaporated under reduced pressure. The residue was purified by flash chromatography (2:1 hexanes/ethyl acetate) to give the title compound (2.87 g, 68%) as a yellow oil.

reactant | 2,4-dichloropyrimidine | 13.4 mmol, 2.0 g | ClC1=NC=CC(=N1)Cl | C4H2Cl2N2
reactant | (R)-tert-butyl 3-aminopiperidine-1-carboxylate | 13.5 mmol, 2.7 g | N[C@H]1CN(CCC1)C(=O)OC(C)(C)C | C10H20N2O2
reactant | water | O | H2O
solvent | N,N′-dimethylformamide | 15 mL | CN(C)C=O | C3H7NO
product | (R)-Tert-butyl 3-(2-chloropyrimidin-4-ylamino)piperidine-1-carboxylate | 2.87 g, 68% | ClC1=NC=CC(=N1)N[C@H]1CN(CCC1)C(=O)OC(C)(C)C | C14H21ClN4O2
